US06462041B1
Methyl Gambogate
A mixture of gambogic acid (200 mg, 0.32 mmol), DMAP (78 mg, 0.64 mmol), EDC (123 mg, 0.64 mmol) and methanol (102 mg, 3.2 mmol) in THF (5 mL) was stirred at room temperature for 3 h. The solution was poured into water (10 mL) and was extracted with ethyl acetate (3×10 mL). The combined organic layer was dried and concentrated to give the crude product, which was purified by chromatography (SiO2, EtOAc/Hexane 1:5) to give the title compound (196 mg, 95%). 1H NMR (CDCl3): 12.85 (s, 1H), 7.54 (d, J=6.9 Hz, 1H), 6.67 (d, J=10.5 Hz, 1H), 5.94 (t, J=6 Hz, 1H), 5.43 (d, J=10.2 Hz, 1H), 5.05 (m, 2H), 3.49 (m, 1H), 3.43 (s, 3H), 3.35-3.10 (s, 2H), 3.00 (t, J=7.2 Hz, 1H), 2.52 (d, J=10.2 Hz, 1H), 2.32 (quar, J1=4.8 Hz, 1H), 2.02 (m, 1H), 1.74 (s, 3H), 1.69 (s, 3H), 1.67-1.64 (m, 9H), 1.55 (s, 3H), 1.44 (s, 3H), 1.29 (s, 3H).

reactant | gambogic acid | 0.32 mmol, 200 mg | CC(=CCC[C@@]1(C=CC=2C(=C3C(=C(C2O1)CC=C(C)C)O[C@@]45[C@H]6C[C@@H](C=C4C3=O)C(=O)[C@@]5(OC6(C)C)C/C=C(/C)\C(=O)O)O)C)C | C38H44O8
reactant | EDC | 0.64 mmol, 123 mg
reactant | methanol | 3.2 mmol, 102 mg | CO | CH4O
reactant | water | 10 mL | O | H2O
catalyst | DMAP | 0.64 mmol, 78 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Methyl Gambogate | 196 mg, 95% | CC(=CCC[C@@]1(C=CC2=C(C3=C(C(=C2O1)CC=C(C)C)O[C@@]45[C@H]6C[C@@H](C=C4C3=O)C(=O)[C@@]5(OC6(C)C)C/C=C(/C)\C(=O)OC)O)C)C | C39H46O8
